US09376392B2
Preparation of (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-hydroxyethyl pivalate:
To a stirred solution of (S)-1-(5-bromo-2,7-dimethylquinolin-6-yl)ethane-1,2-diol (290 mg, 0.98 mmol) in dichloromethane (12 mL) and pyridine (2 mL) was added trimethyl acetylchloride (0.24 mL, 1.97 mmol) at 0° C. The mixture was stirred at room temperature for 2 hours, quenched with slowly addition of NaHCO3 solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product. LCMS-ESI+: calc'd for C18H22BrNO3: 380.1 (M+H+); Found: 380.2 (M+H+).

reactant | (S)-1-(5-bromo-2,7-dimethylquinolin-6-yl)ethane-1,2-diol | 0.98 mmol, 290 mg | BrC1=C2C=CC(=NC2=CC(=C1[C@@H](CO)O)C)C | C13H14BrNO2
reactant | trimethyl acetylchloride | 1.97 mmol, 0.24 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-hydroxyethyl pivalate | C(C(C)(C)C)(=O)OC[C@@H](O)C=1C(=C2C=CC(=NC2=CC1C)C)Br | C18H22BrNO3
